US07427632B2
3-Chloro-N-[(R)-1-(Isopropyl)-2-(1-isopropylpiperidine-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide hydrochloride
Using coupling method A, (R)-1-(isopropyl)-2-(1-iso-propylpiperidin-4-ylmethoxy)ethylamine (135 mg, 0.56 mmol) and 3-chloroindole-6-carboxylic acid (109 mg, 0.56 mmol) afforded, after purification (SiO2: 4:2:1 DCM:EtOAc:isopropylamine) and conversion to the HCl salt by general method A, 167 mg (66%) of the title compound.

reactant | (R)-1-(isopropyl)-2-(1-iso-propylpiperidin-4-ylmethoxy)ethylamine | 0.56 mmol, 135 mg | C(C)(C)[C@H](COCC1CCN(CC1)C(C)C)N | C14H30N2O
reactant | 3-chloroindole-6-carboxylic acid | 0.56 mmol, 109 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 3-Chloro-N-[(R)-1-(Isopropyl)-2-(1-isopropylpiperidine-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide hydrochloride | Cl.ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCN(CC1)C(C)C)C(C)C | InChI=1S/C23H34ClN3O2.ClH/c1-15(2)22(14-29-13-17-7-9-27(10-8-17)16(3)4)26-23(28)18-5-6-19-20(24)12-25-21(19)11-18;/h5-6,11-12,15-17,22,25H,7-10,13-14H2,1-4H3,(H,26,28);1H/t22-;/m0./s1
